US08058300B2
Synthesis of (3-Methyl-5-{4′-[1-(1H-tetrazol-5-yl)-cyclopropyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester (Compound 39)
{5-[4′-(1-Cyano-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester (0.385 g, 0.83 mmol) and N,N-dimethylethanolamine (0.101 mL, 1.0 mmol) were combined in diglyme (diethylene glycol dimethyl ether; 2 mL). Hydrochloric acid (4M in 1,4-dioxane; 4.2 mL) was added, and the reaction was stirred for 15 minutes. Additional N,N-dimethylethanolamine (0.221 mL, 2.2 mmol) was added, followed by sodium azide (0.098 g, 1.5 mmol), and the reaction was stirred at 120° C. for 24 hours. After cooling to room temperature, the mixture was diluted with CH2Cl2 (20 mL) and H2O (10 mL). The organic layer was dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | {5-[4′-(1-Cyano-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid (R)-1-phenyl-ethyl ester | 0.83 mmol, 0.385 g | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C#N)C)=O | C29H25N3O3
reactant | N,N-dimethylethanolamine | 1.0 mmol, 0.101 mL | CN(CCO)C | C4H11NO
reactant | Hydrochloric acid | 4M, 4.2 mL | Cl | ClH
reactant | N,N-dimethylethanolamine | 2.2 mmol, 0.221 mL | CN(CCO)C | C4H11NO
reactant | sodium azide | 1.5 mmol, 0.098 g | [N-]=[N+]=[N-].[Na+]
solvent | diglyme | 2 mL | COCCOCCOC | C6H14O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | (3-Methyl-5-{4′-[1-(1H-tetrazol-5-yl)-cyclopropyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C1=NN=NN1)C)=O | C29H26N6O3
